data/rdb19/train.csv
rxn,smiles,ea
1470,[C:10]([O:11][C:12]([C:13]([H:21])([H:22])[H:23])([C:14]([H:15])[H:16])[H:20])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4](=[C:5]([H:8])[H:9])[H:7])[H:6]>>[C:10]([O:11][C:12]([C:13]([H:21])([H:22])[H:23])=[C:14]([H:15])[H:16])([H:17])([H:18])[H:19].[O:1]([C:2](=[O:3])[C:4]([C:5]([H:8])([H:9])[H:20])[H:7])[H:6],26.87347156950273
3342,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])([H:5])([H:6])[H:7]>>[C:1]([C:2]([C:3]([H:8])[H:9])([C:4]([H:10])([H:11])[H:12])[C:15]([C:14]([C:13]([H:19])([H:20])[H:21])([H:22])[H:23])([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:5])([H:6])[H:7],20.81840882493998
4451,[C:13]([C:14]([C:15]([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4](=[O:5])[O:6][H:12])([H:7])([H:8])[H:9]>>[C:13]([C:14]([H:22])[H:23])([H:19])([H:20])[H:21].[C:1]([C:2](=[C:3]([H:10])[H:11])[C:4]1([O:6][H:12])[O:5][C:15]1([H:16])[O:17][C:18]([H:24])([H:25])[H:26])([H:7])([H:8])[H:9],82.76263858628226
356,[C:4]([C:5]([C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19])([H:17])[H:18])([H:14])([H:15])[H:16].[O:1]([O:2])[H:3]>>[C:6]([C:7]([H:20])([H:21])[H:22])([c:8]1[c:9]([H:23])[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]1[H:27])[H:19].[O:1]([O:2][C:5]([C:4]([H:14])([H:15])[H:16])([H:17])[H:18])[H:3],59.04804881458404
4668,[C:17](=[C:18]([c:19]1[c:20]([H:28])[c:21]([H:29])[c:22]([H:30])[c:23]([H:31])[c:24]1[H:32])[H:27])([H:25])[H:26].[C:1]([C:2]([C:3]([C:4]([H:13])([H:14])[H:15])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10]>>[C:1]([C:2]([C:3](=[C:4]([H:13])[H:14])[C:5](=[O:6])[O:7][H:16])([H:11])[H:12])([H:8])([H:9])[H:10].[H:15][C:20]1([H:28])[C:19]([C:18](=[C:17]([H:25])[H:26])[H:27])[C:24]([H:32])=[C:23]([H:31])[C:22]([H:30])=[C:21]1[H:29],41.43184279609704
1663,[C:15]([C:16]([C:17]([C:18]([H:31])([H:32])[H:33])([c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38])[H:30])([H:28])[H:29])([H:25])([H:26])[H:27].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11]>>[C:1]([C:2]([C:3]([H:4])([H:5])[C:17]([C:16]([C:15]([H:25])([H:26])[H:27])([H:28])[H:29])([C:18]([H:31])([H:32])[H:33])[H:30])([C:6](=[O:7])[N:8]([H:13])[H:14])[H:12])([H:9])([H:10])[H:11].[c:19]1[c:20]([H:34])[c:21]([H:35])[c:22]([H:36])[c:23]([H:37])[c:24]1[H:38],71.30400392832235
3923,[C:13]([C:14]([C:15]([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])[H:9])([H:5])([H:6])[H:7]>>[C:1]([H:5])([H:6])[H:7].[C:2]([C:3](=[C:4]([H:11])[H:12])[H:10])([H:8])([H:9])[C:15]([C:14]([C:13]([H:21])([H:22])[H:23])([H:24])[H:25])([H:16])[O:17][C:18](=[O:19])[C:20]([H:26])([H:27])[H:28],58.62267330632312
332,[C:4]([C:5](=[C:6]([H:13])[H:14])[C:7](=[O:8])[O:9][H:15])([H:10])([H:11])[H:12].[O:1]([O:2])[H:3]>>[O:1][O:2][C:5]([C:4]([H:10])([H:11])[H:12])([C:6]([H:3])([H:13])[H:14])[C:7](=[O:8])[O:9][H:15],20.60787759278901
970,[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:21])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])[H:5])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11]>>[C:14]([C:15]([O:16][C:17](=[O:18])[C:19](=[C:20]([H:27])[H:28])[H:26])([H:24])[H:25])([H:22])[H:23].[C:1]([C:2]([C:3]([H:4])([H:5])[H:21])([C:6](=[O:7])[O:8][H:13])[H:12])([H:9])([H:10])[H:11],23.010007459379267
2603,[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])[H:10])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:20]([C:21]([C:22]([C:23]([H:36])([H:37])[H:38])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])([H:33])[H:34])([H:30])([H:31])[H:32]>>[C:1]([C:2]([O:3][C:4](=[O:5])[C:6]([C:7]([H:17])([H:18])[H:19])([C:8]([H:9])([H:10])[C:22]([C:21]([C:20]([H:30])([H:31])[H:32])([H:33])[H:34])([c:24]1[c:25]([H:39])[c:26]([H:40])[c:27]([H:41])[c:28]([H:42])[c:29]1[H:43])[H:35])[H:16])([H:14])[H:15])([H:11])([H:12])[H:13].[C:23]([H:36])([H:37])[H:38],65.96963339718059
1935,[C:11]([C:12]([C:13]([H:14])[C:15](=[O:16])[N:17]([H:23])[H:24])([H:21])[H:22])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4](=[C:5]([H:9])[H:10])[H:8])([H:6])[H:7]>>[C:11]([C:12](=[C:13]([H:14])[C:15](=[O:16])[N:17]([H:23])[H:24])[H:21])([H:18])([H:19])[H:20].[N:1]([C:2](=[O:3])[C:4]([C:5]([H:9])([H:10])[H:22])[H:8])([H:6])[H:7],30.60283990757307
